US08404896B2
To a solution of LDA (2.0 M in THF, 3.7 mL) in THF (20 mL) at −78° C. under argon was added dropwise a solution of 2-(3-fluoro-5-(trifluoromethyl)phenyl)-2-(5-fluoropyridin-2-yl)acetonitrile (1.7 g, 5.7 mmol), prepared as described in Procedure 3, in THF (4 mL). The resulting solution was stirred at −78° C. for 1 h. Benzylbromide (0.88 mL, 7.4 mmol) was added to the reaction mixture and allowed to warm to room temperature. The reaction mixture was stirred at rt for 1 h, concentrated under reduced pressure and diluted with EtOAc (approx 100 mL). The resulting solution was washed with water (30 mL) and sat. NaCl (30 mL), dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to yield a yellow oil. The yellow oil was dissolved in CH2Cl2 and loaded directly onto a silica gel ISCO cartridge (40 g) with elution at 35 mL/min gradient 0 to 30% EtOAc in hexane over 35 min (RT=27-32 min). 2-(3-Fluoro-5-(trifluoromethyl)phenyl)-2-(5-fluoropyridin-2-yl)-3-phenylpropanenitrile (1.6 g, 72% yield) was isolated as a pale yellow oil. LCMS: RT=2.17 min [M+H] 389.0 (2 min Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% MeOH/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm); HPLC: RT=4.24 min (Phenomenex Luna C18 column, 4.6×50 mm eluting with 10-90% MeOH/H2O over 4 minutes containing 0.2% PPA; 4 mL/min, monitoring at 220 nm); NMR: 400 MHz 1H (CDCl3) ppm 3.59 (d, J=13.18 Hz, 1 H), 3.90 (d, J=13.62 Hz, 1 H), 6.89 (d, J=6.59 Hz, 2 H), 7.09-7.15 (m, 3 H), 7.20 (d, J=7.91 Hz, 1 H), 7.32 (td, J=8.35, 3.08 Hz, 1H), 7.37 (d, J=9.23 Hz, 1 H), 7.45-7.48 (m, 1 H), 7.49 (s, 1 H), 8.50 (d, J=2.64 Hz, 1 H).

reactant | LDA | 2.0 M, 3.7 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2-(3-fluoro-5-(trifluoromethyl)phenyl)-2-(5-fluoropyridin-2-yl)acetonitrile | 5.7 mmol, 1.7 g | FC=1C=C(C=C(C1)C(F)(F)F)C(C#N)C1=NC=C(C=C1)F | C14H7F5N2
reactant | Benzylbromide | 7.4 mmol, 0.88 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(3-Fluoro-5-(trifluoromethyl)phenyl)-2-(5-fluoropyridin-2-yl)-3-phenylpropanenitrile | 1.6 g, 72% yield | FC=1C=C(C=C(C1)C(F)(F)F)C(C#N)(CC1=CC=CC=C1)C1=NC=C(C=C1)F | C21H13F5N2
